US05204473
2,4,6-tris[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-1,3,5-triazine
To a refluxing mixture of 13.5 g (19.0 mmol) of 2,4,6-tris[N-(2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-1,3,5-triazine, 0.2 g of molybdenum trioxide, and 175 ml of cyclohexane are added 36.6 g (284 mmol) of 70% aqueous t-butyl hydroperoxide over a 10 minute interval. The red reaction mixture is heated at reflux for one hour and then transferred to a Fischer-Porter pressure bottle using 25 ml of fresh cyclohexane. The reaction mixture is then heated for 3 hours at 150° C. to discharge the red color. Solids are removed by filtration and the filtrate is concentrated to a residue which is purified by flash chromatography on silica gel (19:1 heptane:ethyl acetate). The product is crystallized from isopropyl alcohol to afford 7.6 g (40% yield) of a white powder, m.p. 189°-94° C.

reactant | 2,4,6-tris[N-(2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-1,3,5-triazine | 19.0 mmol, 13.5 g | CC1(NC(CC(C1)N(C1=NC(=NC(=N1)N(C1CC(NC(C1)(C)C)(C)C)CCCC)N(C1CC(NC(C1)(C)C)(C)C)CCCC)CCCC)(C)C)C | C42H81N9
reactant | t-butyl hydroperoxide | 284 mmol, 36.6 g | C(C)(C)(C)OO | C4H10O2
catalyst | molybdenum trioxide | 0.2 g | [Mo](=O)(=O)=O
solvent | cyclohexane | 25 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 175 ml | C1CCCCC1 | C6H12
product | 2,4,6-tris[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-1,3,5-triazine | 7.6 g, 40% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)N(C1=NC(=NC(=N1)N(C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)CCCC)N(C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)CCCC)CCCC)(C)C | C60H111N9O3
